US07470679B2
N-(4,5-Difluoro-2-formylphenyl)pivalamide
Pyridiniumchlorochromate (9.36 g, 43.4 mmol) was added to the solution of the crude N-(4,5-difluoro-2-(hydroxymethyl)phenyl)pivalamide in CH2Cl2 (150 mL) at rt. The yellow solution turned into dark brown in 10 min, and the mixture was continued stirring for 3 hr, and then passed through a thin silica gel pad with CH2Cl2 (2×50 mL). The combined organic solution was concentrated on rotary vacuum, and purified on flash chromatography eluting with 20˜60% EtOAc/hexanes(1300 mL) to afford the expected product as a brown solid(1.91 g, 26% yield after three step); 1H NMR (400 MHz, CDCl3) δppm 1.29 (s, 9H), 7.42-7.48 (m, 1H), 8.75 (dd, J=13.35, 7.30 Hz, 1H), 9.77-9.80 (m, 1H), 11.40 (s, 1H); Mass spec. 242.08 (MH+), Calc. for C12H13F2NO2 241.09.

reactant | Pyridiniumchlorochromate | 43.4 mmol, 9.36 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | N-(4,5-difluoro-2-(hydroxymethyl)phenyl)pivalamide | FC1=CC(=C(C=C1F)NC(C(C)(C)C)=O)CO | C12H15F2NO2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(4,5-Difluoro-2-formylphenyl)pivalamide | 1.91 g, 26% yield | FC1=CC(=C(C=C1F)NC(C(C)(C)C)=O)C=O | C12H13F2NO2
